US07319102B1
Preparation of [7-(2,6-difluorophenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluorophenyl)-methanone (4):
To a solution of [7-(2,6-difluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluoro-phenyl)-methanone, 3, (4.6 g, 11.5 mmol) in THF:methanol (108 mL of 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (28.4 g, 46.1 mmol) in H2O (83 mL). After stirring the reaction for 1 hour at room temperature, the solution is poured into aqueous saturated NaHCO3. The aqueous phase is extracted three times with EtOAc and the combined organic phases are dried (MgSO4), filtered and concentrated in vacuo to afford 4.5 g of the desired product which is used without further purification.

reactant | [7-(2,6-difluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluoro-phenyl)-methanone | FC1=C(C(=CC=C1)F)N1C(=CC2=C1N=C(N=C2)SC)C(=O)C2=CC=C(C=C2)F | C20H12F3N3OS
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 83 mL | O | H2O
solvent | methanol | 108 mL | CO | CH4O
product | [7-(2,6-difluorophenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-(4-fluorophenyl)-methanone | 4.5 g | FC1=C(C(=CC=C1)F)N1C(=CC2=C1N=C(N=C2)S(=O)(=O)C)C(=O)C2=CC=C(C=C2)F | C20H12F3N3O3S
